* C:\Users\voids\Documents\GitHub\hvsd-3ch\LTspice\dc vus caps.asc
V1 N002 0 350 Rser=.1
I1 N001 0 PULSE(40 0 0 150ns 150ns 33us 66us 100)
L1 N002 N003 180nH Rser=.002
L2 N003 N001 .44µh Rser=.002
C2 N001 0 20µf Rser=4.2m Lser=27.5nH
I2 N001 0 PULSE(0 0 22us 150ns 150ns 33us 66us 100)
I3 N001 0 PULSE(0 0 44us 150ns 150ns 33us 66us 100)
C3 N001 0 .3µf
C4 N001 0 20µf Rser=4.2m Lser=27.5nH
C5 N001 0 20µf Rser=4.2m Lser=27.5nH
C6 N003 0 1µf Rser=4.2m Lser=15nH
.tran 0 .001 0 1ns
.backanno
.end
